US07141596B2
Step 2. Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-chloro-4-iodophenyl)propanoate
Methyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate (3.00 g, 9.12 mmol) in aqueous hydrochloric acid solution (1.0 N, 100.0 mL) at 0° C. was treated with a solution of sodium nitrite (692 mg, 10.0 mmol) in water (10 mL). The solution was stirred at 0° C. for 30 minutes. A solution of potassium iodide (1.89 g, 11.4 mmol) in water (10 mL) was added and the solution stirred 30 minutes at rt and then 10 minutes at 35° C. The solution was diluted with ethyl acetate (200 mL), quenched with aqueous sodium thiosulfate solution (1.0 N, 500 mL), and the organic phase separated. The organic layer was washed with aqueous hydrochloric acid solution (1.0 N, 100 mL), brine (100 mL), and after drying over sodium sulfate was concentrated in vacuo. Purification by silica gel chromatography (10–40% ethyl acetate/hexanes) afforded product as a yellow solid (2.1 g, 53%). 1H NMR (400 MHz, CD3OD): δ 7.80 (d, J=8.0 Hz, 1H), 7.37 (s, 1H), 6.90 (d, J=8.2 Hz, 1H), 4.36–4.33 (m, 1H), 3.70 (s, 3H), 3.12–3.07 (m, 1H), 2.86–2.80 (m, 1H), 1.37 (s, 9H); LCMS found for C10H12ClINO2 (M+H)+: m/z=340.

reactant | Methyl (2S)-3-(4-amino-3-chlorophenyl)-2-[(tert-butoxycarbonyl)amino]propanoate | 9.12 mmol, 3.00 g | NC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C)Cl | C15H21ClN2O4
reactant | sodium nitrite | 10.0 mmol, 692 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 11.4 mmol, 1.89 g | [I-].[K+]
solvent | hydrochloric acid | 1.0 N, 100.0 mL | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-chloro-4-iodophenyl)propanoate | 2.1 g, 53% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)I)Cl | C15H19ClINO4
